US09085555B2
(1H-Indol-6-yl)-acetic acid ethyl ester
To a solution of 6-ethoxycarbonylmethyl-indole-1-carboxylic acid methyl ester (965 mg, 3.25 mmol) in EtOH (10 mL) was added dimethylamine (˜5.6 M in EtOH, 24.4 mL, 48.8 mmol) and the solution was stirred at RT overnight. EtOH was concentrated and the crude residue was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 85:15) to give the desired material. MS (UPLC): 204.2 [M+H]+, 221.2 [M+NH4]+, 248.2 [M+HCOO]−; tR (HPLC conditions f): 1.87 min.

reactant | 6-ethoxycarbonylmethyl-indole-1-carboxylic acid methyl ester | 3.25 mmol, 965 mg | COC(=O)N1C=CC2=CC=C(C=C12)CC(=O)OCC | C14H15NO4
reactant | dimethylamine | 48.8 mmol, ˜5.6 M, 24.4 mL | CNC | C2H7N
solvent | EtOH | 10 mL | CCO | C2H6O
product | (1H-Indol-6-yl)-acetic acid ethyl ester | C(C)OC(CC1=CC=C2C=CNC2=C1)=O | C12H13NO2
